US08420655B2
5-{1-tert-Butyl-2-[5-methoxy-2-(3-methyl-1,2,4-oxadiazol-5-yl)-phenyl]-1H-benzimidazol-5-yl}-pyrimidin-2-ylamine
To a mixture of 4-(2-amino-pyrimidin-5-yl)-N1-tert-butyl-benzene-1,2-diamine (155 mg, 0.60 mmol) and 5-methoxy-2-(3-methyl-1,2,4-oxadiazol-5-yl)-benzaldehyde (155 mg, 0.60 mmol) in DMF (10.0 mL) is added Oxone (155 mg, 0.71 mmol) in H2O (2.0 mL). The reaction mixture is stirred at room temperature for 1.5 hours and then quenched with saturated sodium thiosulfate aq. (25 mL). The quenched reaction mixture is extracted with EtOAc (25 mL×2) and the combined organic layers are washed with H2O (50 mL×2), dried with Na2SO4 and filtered. The filtrate is concentrated under reduced pressure and the residue is purified by silica gel flash column chromatography with 5% MeOH in CH2Cl2 as the eluent to afford the title compound (25 mg, 9%) as a white solid. LCMS (ESMS): m/z 456.20 (M++1)

reactant | 4-(2-amino-pyrimidin-5-yl)-N1-tert-butyl-benzene-1,2-diamine | 0.60 mmol, 155 mg | NC1=NC=C(C=N1)C=1C=C(C(=CC1)NC(C)(C)C)N | C14H19N5
reactant | 5-methoxy-2-(3-methyl-1,2,4-oxadiazol-5-yl)-benzaldehyde | 0.60 mmol, 155 mg | COC=1C=CC(=C(C=O)C1)C1=NC(=NO1)C | C11H10N2O3
reactant | Oxone | 0.71 mmol, 155 mg | OOS(=O)[O-].[K+]
solvent | DMF | 10.0 mL | CN(C)C=O | C3H7NO
solvent | H2O | 2.0 mL | O | H2O
product | 5-{1-tert-Butyl-2-[5-methoxy-2-(3-methyl-1,2,4-oxadiazol-5-yl)-phenyl]-1H-benzimidazol-5-yl}-pyrimidin-2-ylamine | 25 mg, 9% | C(C)(C)(C)N1C(=NC2=C1C=CC(=C2)C=2C=NC(=NC2)N)C2=C(C=CC(=C2)OC)C2=NC(=NO2)C | C25H25N7O2
